US04476132
3.64 g of malonic acid diethyl ester are dissolved in 50 ml of dimethyl acetamide and converted into the sodium salt in the cold, under nitrogen, with sodium hydride (1.09 g of a 50% strength suspension in mineral oil, de-oiled with hexane). The sodium salt is then heated to 105°, in the course of 1 hour 5.95 g of N-allyl-5-butyryl-4-methylisatic acid anhydride in 30 ml of dimethyl acetamide are added dropwise, and the mixture is stirred for 9 hours at 120° and overnight at room temperature. The dimethyl acetamide is then substantially distilled off under reduced pressure. Approximately 100 g of ice and 20 ml of 2N hydrochloric acid are added to the reaction mixture while stirring and the precipitated crystals are filtered with suction, then washed with cold diethyl ether, dried under reduced pressure and recrystallised from approximately 30 ml of methanol. 1-Allyl-6-butyryl-4-hydroxy-7-methylcarbostyril-3-carboxylic acid ethyl ester having a melting point of 112°- 114° is obtained.

reactant | malonic acid diethyl ester | 3.64 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | sodium | [Na] | Na
reactant | sodium hydride | [H-].[Na+]
reactant | N-allyl-5-butyryl-4-methylisatic acid anhydride | 5.95 g | C(C=C)NC=1C(=CC(=C(C1)C)C(CCC)=O)C(=O)C(=O)OC(C(C=1C(NCC=C)=CC(=C(C1)C(CCC)=O)C)=O)=O | C32H36N2O7
solvent | dimethyl acetamide | 50 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethyl acetamide | 30 ml | CC(=O)N(C)C | C4H9NO
solvent | hexane | CCCCCC | C6H14
product | 1-Allyl-6-butyryl-4-hydroxy-7-methylcarbostyril-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=CC(=C(C=C2C1O)C(CCC)=O)C)CC=C)=O | C20H23NO5
